US08022062B2
7-Chloro-6-(2,2-difluoro-2-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Example 647 may be prepared essentially as described in Example 646 using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2,2-difluoro-2-pyridin-2-yl-ethyl trifluoromethanesulfonate (prepared by following the procedure described in J. Med. Chem. 2003, 46, 461-473) (66% yield, MS (ES+) m/z 355 (M+H)+).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2,2-difluoro-2-pyridin-2-yl-ethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(C1=NC=CC=C1)(F)F)(F)F | C8H6F5NO3S
product | 7-Chloro-6-(2,2-difluoro-2-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 66% yield | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC(C1=NC=CC=C1)(F)F | InChI=1S/C17H17ClF2N2S.ClH/c18-14-5-4-12-6-9-21-10-7-13(12)16(14)23-11-17(19,20)15-3-1-2-8-22-15;/h1-5,8,21H,6-7,9-11H2;1H
